US07582769B2
Sodium (45 g, 1.96 mol) was slowly added to a solution of 4-ethylcyclohexanone oxime (33 g, 0.23 mol) (prepared according to lit. R. O. Hutchins et al. J. Org. Chem. 60 (1995) 7396-7405)) in 99.9% ethanol (500 mL) while keeping the temperature below 65° C. The reaction mixture was heated at reflux temperature for 1½ h and then stirred at room temperature for further 16 h. A mixture of water (500 mL) and ethanol (100 mL) was added and the mixture was extracted with diethyl ether (3×250 mL). The combined organic phases was washed with brine (150 mL), dried over anhydrous magnesium sulphate and evaporated to dryness. The residue was dissolved in ethanol (100 mL), pH was adjusted to approx. 3 with 4 N hydrochloric acid (60 mL) and the solution was evaporated to dryness in vacuo to give crude ethylcyclohexylamine. The product was purified by recrystallization from ethanol/acetonitrile (4:1) to give 4-trans-ethylcyclohexylamine, hydrochloride as white crystalls.

reactant | Sodium | 1.96 mol, 45 g | [Na] | Na
reactant | 4-ethylcyclohexanone oxime | 0.23 mol, 33 g | C(C)C1CCC(CC1)=NO | C8H15NO
reactant | water | 500 mL | O | H2O
reactant | ethanol | 500 mL | C(C)O | C2H6O
reactant | ethanol | 100 mL | C(C)O | C2H6O
product | ethylcyclohexylamine | C(C)NC1CCCCC1 | C8H17N
